US07820693B2
BOP Reagent (1.2 g, 2.8 mmol), N,N-diisopropylethylamine (0.5 ml, 3 mmol), and N,O-dimethylhydroxyamine hydrochloride (273 mg, 2.8 mmol) were added to a dichloromethane solution that contained Fmoc-MeSer(Bzl)-OH (1 g, 2.3 mmol). The obtained mixture was stirred at a room temperature for 1 day. Thereafter, the reaction solution was successively washed with 1 N hydrochloric acid, with a saturated sodium bicarbonate aqueous solution, and with a saturated saline solution. Thereafter, the resultant was dried over anhydrous sodium sulfate, and the solvent was distilled away under reduced pressure. The obtained residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:2). 238 mg out of the obtained oil product (850 mg) was dissolved in THF (2 ml), and the obtained solution was added dropwise at −78° C. to a THF solution (8 ml) that contained lithium aluminum hydride (10 mg, 0.25 mmol). The obtained mixture was stirred at −78° C. for 1.5 hours. Thereafter, lithium aluminum hydride (10 mg, 0.25 mmol) was further added thereto, and the obtained mixture was stirred at −78° C. for 30 minutes. Thereafter, a saturated ammonium chloride aqueous solution was added to the reaction solution at −78° C., and the temperature of the obtained mixture was then increased to a room temperature. The mixture was filtered through celite, and the filtrate was then extracted with dichloromethane. The extract was washed with a saturated saline solution, and was dried over anhydrous sodium sulfate, followed by concentration under reduced pressure. The generated oil product was dissolved in 5 ml of methanol without being purified. Thereafter, 7-amino-3-(2-trifluoromethylphenyl)-2H-isoquinolin-1-one (100 mg, 0.33 mmol) and 1 ml of acetic acid were added thereto. Thereafter, sodium cyanoborohydride (135 mg, 2.1 mmol) was added to the mixture under cooling on ice, and the temperature of the obtained mixture was increased to a room temperature, followed by stirring for 3 hours. Thereafter, a saturated sodium bicarbonate aqueous solution was added to the reaction solution, and the mixture was then extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, and was then concentrated. The obtained residue was purified by silica gel column chromatography (ethyl acetate hexane=1:2 to 2:1), so as to obtain a yellow foaming substance. This yellow foaming substance was dissolved in dichloromethane (5 ml), and piperidine (1 ml) was then added to the solution. The obtained mixture was stirred at a room temperature. Four hours later, the reaction solution was concentrated, and 1 N hydrochloric acid (2 ml) and methanol (2 ml) were then added thereto, followed by stirring at 40° C. Six hours later, the reaction solution was neutralized with a 1 N sodium hydroxide aqueous solution under cooling on ice. A saturated sodium bicarbonate aqueous solution was added to the resultant, and the mixture was then extracted with dichloromethane. The extract was dried over anhydrous sodium sulfate, and was then concentrated. The obtained residue was purified by amino TLC used for preparative separation (Fuji Silysia Chemical Ltd., PLC05; dichloromethane:methanol=20:1), so as to obtain 7-((R)-3-benzyloxy-2-methylaminopropylamino)-3-(2-trifluoromethylphenyl)-2H-isoquinolin-1-one (48 mg; yield: 31%) in the form of a yellow foaming substance.

reactant | BOP Reagent | 2.8 mmol, 1.2 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 3 mmol, 0.5 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,O-dimethylhydroxyamine hydrochloride | 2.8 mmol, 273 mg | Cl.CNOC
reactant | Fmoc-MeSer(Bzl)-OH | 2.3 mmol, 1 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N([C@@H](COCC1=CC=CC=C1)C(=O)O)C | C26H25NO5
reactant | lithium aluminum hydride | 0.25 mmol, 10 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 0.25 mmol, 10 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | 7-amino-3-(2-trifluoromethylphenyl)-2H-isoquinolin-1-one | 0.33 mmol, 100 mg | NC1=CC=C2C=C(NC(C2=C1)=O)C1=C(C=CC=C1)C(F)(F)F | C16H11F3N2O
reactant | sodium cyanoborohydride | 2.1 mmol, 135 mg | C(#N)[BH3-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 7-((R)-3-benzyloxy-2-methylaminopropylamino)-3-(2-trifluoromethylphenyl)-2H-isoquinolin-1-one | 48 mg, yield: 31% | C(C1=CC=CC=C1)OC[C@@H](CNC1=CC=C2C=C(NC(C2=C1)=O)C1=C(C=CC=C1)C(F)(F)F)NC | C27H26F3N3O2
